US08202873B2
3′-(4-Chlorophenyl)-4-(3,5-dimethyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride
Couple 3′-(4-chlorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.103 g, 0.400 mmol) and 3,5-dimethyl-1-phenyl 1H-pyrazole-4-carbaldehyde (0.083 g, 0.679 mmol) in the presence of acetic acid (0.035 mL, 0.61 mmol) and sodium triacetoxy-borohydride (0.105 g, 0.491 mmol) in DCE (5 mL) for 44 hr. Purify by silica gel chromatography, eluting with 0:100 to 10:90 methanol:DCM. Dissolve the free base in methanol and add ammonium chloride (6.0 mg, 0.2 mmol). Stir overnight, concentrate under reduced pressure, add diethyl ether and stir overnight. Isolate the solid product by filtration and vacuum dry overnight to give the title compound (0.0637 g, 46%). MS (ES): m/z=460 [M+H]+.

reactant | 3′-(4-chlorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.400 mmol, 0.103 g | ClC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15ClN4
reactant | 3,5-dimethyl-1-phenyl 1H-pyrazole-4-carbaldehyde | 0.679 mmol, 0.083 g | CC1=NN(C(=C1C=O)C)C1=CC=CC=C1 | C12H12N2O
reactant | acetic acid | 0.61 mmol, 0.035 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxy-borohydride | 0.491 mmol, 0.105 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ammonium chloride | 0.2 mmol, 6.0 mg | [Cl-].[NH4+]
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 3′-(4-Chlorophenyl)-4-(3,5-dimethyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride | 0.0637 g, 46% | Cl.ClC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C(=NN(C1C)C1=CC=CC=C1)C | InChI=1S/C26H27ClN6.ClH/c1-19-24(20(2)33(30-19)23-6-4-3-5-7-23)18-31-14-16-32(17-15-31)26-25(28-12-13-29-26)21-8-10-22(27)11-9-21;/h3-13H,14-18H2,1-2H3;1H
